US04843087
To 100 g of 4-(6-bromohexyloxy)-N-(2-hydroxyethyl)benzamide was added dropwise 112 g (75 ml) of thionyl chloride over a 20 minute period. The mixture was stirred for 45 minutes and then diluted with several volumes of ether. A solid product separated which was collected and rinsed with ether to give 90 g of 2-[4-(6-bromohexyloxy)phenyl]-4,5-dihydro-oxazole.

reactant | 4-(6-bromohexyloxy)-N-(2-hydroxyethyl)benzamide | 100 g | BrCCCCCCOC1=CC=C(C(=O)NCCO)C=C1 | C15H22BrNO3
reactant | thionyl chloride | 75 ml, 112 g | S(=O)(Cl)Cl | Cl2OS
solvent | ether | CCOCC | C4H10O
product | 2-[4-(6-bromohexyloxy)phenyl]-4,5-dihydro-oxazole | 90 g | BrCCCCCCOC1=CC=C(C=C1)C=1OCCN1 | C15H20BrNO2
